US06916804B2
N-{2-[(6-amino-2-phenylpyrimidin-4-yl)amino]ethyl}acetamide (5):
6-Chloro-2-phenylpyrimidin-4-amine (2.87 g) was dissolved in DMSO (50 ml) and N-acetylethylenediamine (14.28 g) added. The stirred solution was heated at 130° C. for 8 hrs then partitioned between ethyl acetate (500 ml) and saturated brine solution (400 ml). The organic phase was dried over magnesium sulfate, filtered and the solvent removed in vacuo. Purification by flash chromatography on silica gel eluting with first ethyl acetate then a mixture of ethyl acetate and methanol (9:1 then 8:2 v/v) yielded the title compound (2.50 g).

reactant | 6-Chloro-2-phenylpyrimidin-4-amine | 2.87 g | ClC1=CC(=NC(=N1)C1=CC=CC=C1)N | C10H8ClN3
reactant | N-acetylethylenediamine | 14.28 g | C(C)(=O)NCCN | C4H10N2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | N-{2-[(6-amino-2-phenylpyrimidin-4-yl)amino]ethyl}acetamide | 2.50 g | NC1=CC(=NC(=N1)C1=CC=CC=C1)NCCNC(C)=O | C14H17N5O
